US06284748B1
A solution of 6-chloro-8-hydroxymethyl-N9-neopentylpurine (1 mmol) in methylene chloride was treated with phosphorus tribromide (1 mmol) at 25° C. for 6 h. Extraction and chromatography afforded 6-chloro-8-bromomethyl-N9-neopentylpurine as a white solid. TLC: Rf=0.64, 25% EtOAc-hexane.

reactant | 6-chloro-8-hydroxymethyl-N9-neopentylpurine | 1 mmol | ClC1=C2N=C(N(C2=NC=N1)CC(C)(C)C)CO | C11H15ClN4O
reactant | phosphorus tribromide | 1 mmol | P(Br)(Br)Br | Br3P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-chloro-8-bromomethyl-N9-neopentylpurine | ClC1=C2N=C(N(C2=NC=N1)CC(C)(C)C)CBr | C11H14BrClN4
